US04113776
In a similar manner to that described in Example 1, ethylenediamine was reacted with 2,6-dibromophenylisothiocyanate to yield 1-(2-aminoethyl)-3-(2,6-dibromophenyl)thiourea, melting point 155°-157°.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2,6-dibromophenylisothiocyanate | BrC1=C(C(=CC=C1)Br)N=C=S | C7H3Br2NS
product | 1-(2-aminoethyl)-3-(2,6-dibromophenyl)thiourea | NCCNC(=S)NC1=C(C=CC=C1Br)Br | C9H11Br2N3S
